US06599917B1
c) (3R)-3-[2-Benzyl-6-(cis-3,4-methylenedioxypyrrolidine-1-yl)-3-pyridyl]ethynyl-3-quinuclidinol
A mixture of 116 mg of 2-benzyl-6-(cis-3,4-methylenedioxypyrrolidine-1-yl)-3-iodopyridine, 47 mg of (3R)-3-ethynyl-3-quinuclidinol, 33 mg of tetrakis(triphenylphosphine)palladium (0), 3 mg of cuprous iodide, 0.12 ml of triethylamine and 3.0 ml of N,N-dimethylformamide was heated under stirring at 75° C. for 4 hours in a nitrogen atmosphere. The reaction solution was poured into aqueous dilute ammonia, and then extracted with ethyl acetate. The extract was washed with brine and the solvent was removed. The residue was subjected to NH-silica gel (Fuji Silicia) column chromatography and eluted with hexane/ethyl acetate (1:1) and then with ethyl acetate/methanol (20:1), to give 38 mg of the target compound.

reactant | 2-benzyl-6-(cis-3,4-methylenedioxypyrrolidine-1-yl)-3-iodopyridine | 116 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@H]2[C@@H](C1)OCO2 | C17H17IN2O2
reactant | (3R)-3-ethynyl-3-quinuclidinol | 47 mg | C(#C)[C@]1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
catalyst | tetrakis(triphenylphosphine)palladium | 33 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | (3R)-3-[2-Benzyl-6-(cis-3,4-methylenedioxypyrrolidine-1-yl)-3-pyridyl]ethynyl-3-quinuclidinol | 38 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1C#C[C@]1(CN2CCC1CC2)O)N2C[C@H]1[C@@H](C2)OCO1 | C26H29N3O3
